US06423869B1
ethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionate
To a solution of [(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoic acid (250 mg) in acetonitrile (10 ml) were added N-hydroxy-5-norbornene-2,3-dicarboxyimide (110 mg) and N,N′-dicyclohexylcarbodimide (110 mg) and the mixture was stirred at room temperature for 1 hour. After addition of a solution of ethyl (S)-3-amino-3-(4-methylphenyl)propionate (150 mg) and triethylamine (0.13 ml) in acetonitrile (10 ml), the whole was stirred at room temperature for 18 hours. The formed insoluble solid was filtrated off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and washed with saturated brine (50 ml×2), followed by drying over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was passed through silica gel column chromatography, followed by elution with ethyl acetate-hexane (2:1). The effective fractions were combined and concentrated under reduced pressure to afford the title compound (184 mg).

reactant | (2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoic acid | 250 mg | C(C)(=O)O[C@H](C(=O)O)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C28H38N2O13
reactant | N,N′-dicyclohexylcarbodimide | 110 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl (S)-3-amino-3-(4-methylphenyl)propionate | 150 mg | N[C@@H](CC(=O)OCC)C1=CC=C(C=C1)C | C12H17NO2
reactant | triethylamine | 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | ethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionate | 184 mg | C(C)(=O)O[C@H](C(=O)N[C@@H](CC(=O)OCC)C1=CC=C(C=C1)C)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C40H53N3O14
